US05981533
3-(3-Hydroxy-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine
With the exclusion of air and moisture, a mixture of 44.2 mg (0.1 mmol) of 1-benzyl-4-(3-chloro-phenylamino)-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine, 80 mg (0.6 mmol) of anhydrous aluminum chloride and 2 ml of toluene is heated under reflux for 2 hours. The reaction mixture is then poured into ice-water and extracted with ethyl acetate. The organic phase is washed with a saturated solution of sodium hydrogen carbonate in water and with brine, dried over sodium sulfate and concentrated by evaporation in vacuo. Purification of the residue by flash chromatography on silica gel (230-400 mesh) using methylene chloride and methylene chloride/methanol mixtures (19:1 and 17:3, respectively) yields the title compound; m.p. >220° C.; FAB-MS: (M+H)+ =338.

reactant | 1-benzyl-4-(3-chloro-phenylamino)-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine | 0.1 mmol, 44.2 mg | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2NC2=CC(=CC=C2)Cl)C2=CC(=CC=C2)OC | C25H20ClN5O
reactant | aluminum chloride | 0.6 mmol, 80 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Hydroxy-phenyl)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | OC=1C=C(C=CC1)C1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C17H12ClN5O
